US05491172
(c) 2,6-Bis(1-methylethyl)-N-[[[2,4,6-tris(1-methylethyl)-phenyl]methyl]sulfonyl]benzeneacetamide
A solution of 2,4,6-triisopropylbenzylsulfonamide (100 mg, 0.33 mmol), 2,6-diisopropylphenylacetyl chloride (75 mg, 0.34 mmol), and Et3N (47 μL, 0.34 mmol) in 10 mL THF was stirred at room temperature overnight. The solvent was evaporated and the residue was distributed between ethyl acetate and 0.1N HCl, the organic layer was washed with brine, dried, and evaporated. The pure product (20 mg, 12%) was isolated by column chromatography (4:1 hexane:EtOAc), m/e=499; NMR (CDCl3): δ 7.05-7.4 (m, 5H), 4.25 (s, 2H), 3.95 (s, 2H), 3.45-3.6 (m, 1H), 3.0-3.15 (m, 2H), 2.85-3.0 (m, 2H), 1.05-1.4 (m, 30H) ppm.

reactant | 2,4,6-triisopropylbenzylsulfonamide | 0.33 mmol, 100 mg | C(C)(C)C1=C(CS(=O)(=O)N)C(=CC(=C1)C(C)C)C(C)C | C16H27NO2S
reactant | 2,6-diisopropylphenylacetyl chloride | 0.34 mmol, 75 mg | C(C)(C)C1=C(C(=CC=C1)C(C)C)CC(=O)Cl | C14H19ClO
reactant | Et3N | 0.34 mmol, 47 μL | CCN(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,6-Bis(1-methylethyl)-N-[[[2,4,6-tris(1-methylethyl)-phenyl]methyl]sulfonyl]benzeneacetamide | 20 mg, 12% | CC(C)C1=C(C(=CC=C1)C(C)C)CC(=O)NS(=O)(=O)CC1=C(C=C(C=C1C(C)C)C(C)C)C(C)C | C30H45NO3S
